US06921763B2
A solution of 2-fluoro-4-(trifluoromethyl)benzoyl chloride (5.05 g, 0.0223 mol) and 4-bromoaniline (3.83 g, 0.0223 mol) in anhydrous dichloromethane (150 mL) was cooled to 0° C. and N,N-diisopropylethylamine (4.26 mL, 0.0245 mol) was added under nitrogen atmosphere dropwise. The resulting mixture was stirred at ambient temperature for 24 hours, concentrated and the residue was partitioned between ethyl acetate (120 mL) and water (100 mL). The organic phase was washed with brine, dried with magnesium sulfate and concentrated. The residue was suspended in cold n-heptane (50 mL) and the precipitate was collected by filtration and dried to yield N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)benzamide (7.1 g, 0.0196 mol) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 10.74 (s, 1H), 7.90 (m, 2H), 7.74 (d, 1H), 7.68 (d, 2H), 7.56 (d, 2H).

reactant | 2-fluoro-4-(trifluoromethyl)benzoyl chloride | 0.0223 mol, 5.05 g | FC1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF4O
reactant | 4-bromoaniline | 0.0223 mol, 3.83 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | N,N-diisopropylethylamine | 0.0245 mol, 4.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)benzamide | 0.0196 mol, 7.1 g | BrC1=CC=C(C=C1)NC(C1=C(C=C(C=C1)C(F)(F)F)F)=O | C14H8BrF4NO
